US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-{[1-(4-pyridyl)-4-piperidinyl](2,2,2-trifluoroethyl)amino}-2-piperazinone
Similarly to Method B in Example 43 and using 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-piperazinone (200 mg) and trifluoroacetic acid (5 ml) instead of acetic acid, the title compound (37 mg) was obtained as colorless crystals.

reactant | 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-piperazinone | 200 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C24H26ClN5O3S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-{[1-(4-pyridyl)-4-piperidinyl](2,2,2-trifluoroethyl)amino}-2-piperazinone | 37 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)N(CC(F)(F)F)C1CCN(CC1)C1=CC=NC=C1)=O | C26H27ClF3N5O3S
